US04932999
Preparation of 2-bromo-6-[(4,6-dimethoxy-2-pyrimidinvl)thio]benzoic acid [Compound No. 10)
7.0 g of 6-bromothiosalicylic acid was dissolved in 20 ml of an aqueous solution of 4.0 g of potassium hydroxide, and then, 6.9 g of 2-methylsulfonyl-4,6-dimethoxypyrimidine and 20 ml of dimethylformamide were added thereto. The mixture was stirred at room temperature for one hour and poured into a large amount of ice water. The aqueous solution was washed with chloroform and then, neutralized with hydrochloric acid. An oily substance thereby released was extracted with diethyl ether. The diethyl ether layer was dried and passed through a FURORIDIL short column. Diethyl ether was distilled off under reduced pressure to obtain 3.9 g of the desired compound as white powder.

reactant | 6-bromothiosalicylic acid | 7.0 g | BrC=1C=CC=C(C1C(=O)O)S | C7H5BrO2S
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 6.9 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-bromo-6-[(4,6-dimethoxy-2-pyrimidinvl)thio]benzoic acid | 3.9 g | BrC1=C(C(=O)O)C(=CC=C1)SC1=NC(=CC(=N1)OC)OC | C13H11BrN2O4S
